US05808062
4-Hydroxy-3-[(2-phenylethyl)thio]-6-[3-(phenylmethoxy)phenyl]-2H-pyran-2-one:
The title compound was prepared by Method A using 3'-benzyloxyacetophenone (1.14 g, 5.06 mmol), lithium bis(trimethylsilyl) amide (0.930 g, 5.56 mmol), chlorotrimethylsilane (0.705 mL, 5.56 mmol), THF (57 mL), and diethyl ester of [(2-phenylethyl)thio]propanedioic acid (1.00 g, 3.37 mmol). m.p. 126°-127° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.78 (t, 2 H), 3.01 (t, 2 H), 5.20 (s, 2 H), 6.81 (s, 1 H), 7.22 (m, 6 H), 7.41 (m, 7 H).

reactant | 3'-benzyloxyacetophenone | 5.06 mmol, 1.14 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C)=O | C15H14O2
reactant | lithium bis(trimethylsilyl) amide | 5.56 mmol, 0.930 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 5.56 mmol, 0.705 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | THF | 57 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-3-[(2-phenylethyl)thio]-6-[3-(phenylmethoxy)phenyl]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O)SCCC1=CC=CC=C1 | C26H22O4S
